US07868180B2
A) Preparation of (±)1-[[(cyclohexyloxy)carbonyl]oxy]ethyl-2-ethoxy-1-[(2′-cyanobiphenyl-4-yl)-methyl]-1H-benzimidazole-7-carboxylate
0.06 g (0.26 mmol) of potassium (2-cyanophenyl)-tetrafluoroboronate, 0.11 g (0.2 mmol) of (±)1-[[(cyclohexyloxy)carbonyl]oxy]ethyl 1-(4-bromobenzyl)-2-ethoxy-1H-benzimidazole-7-carboxylate, 1 mg (0.004 mmol) of palladium acetate, 2 mg (0.007 mmol) of tri-o-tolylphosphine were given into the dried flask equipped with reflux condenser. The flask was capped with septum and filled with argon in three cycles. 1.2 mL of ethanol, saturated with argon and 0.06 mL of diisoproplyethylamine saturated with argon were added to the flask via a syringe. Reaction mixture was heated and refluxed for 20 hours. Then, the reaction mixture was opened to the atmosphere, cooled, filtered and the solvent was evaporated under vacuo. To the residue 5 ml of isopropyl acetate and 5 ml of water were added. The mixture was stirred and then separated. The organic phase was washed twice with 5 ml of water, dried over Na2SO4 and evaporated to give 150 mg of oily residue.

reactant | (±)1-[[(cyclohexyloxy)carbonyl]oxy]ethyl 1-(4-bromobenzyl)-2-ethoxy-1H-benzimidazole-7-carboxylate | 0.2 mmol, 0.11 g | BrC1=CC=C(CN2C(=NC3=C2C(=CC=C3)C(=O)OC(C)OC(=O)OC3CCCCC3)OCC)C=C1 | C26H29BrN2O6
reactant | tri-o-tolylphosphine | 0.007 mmol, 2 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisoproplyethylamine | 0.06 mL | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | palladium acetate | 0.004 mmol, 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 1.2 mL | C(C)O | C2H6O
product | (±)1-[[(cyclohexyloxy)carbonyl]oxy]ethyl-2-ethoxy-1-[(2′-cyanobiphenyl-4-yl)-methyl]-1H-benzimidazole-7-carboxylate | 150 mg | C1(CCCCC1)OC(=O)OC(C)OC(=O)C1=CC=CC2=C1N(C(=N2)OCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N | C33H33N3O6
